US07417057B2
Step A Synthesis of 4-(4-Methoxy-3-methylphenyl)but-3-yn-1-ol as an Intermediate
A stirred solution of 4.6 grams (0.023 mole) of 5-bromo-2-methoxytoluene (commercially available), 3 mL (0.040 mole) of 3-butyn-1-ol, 0.30 gram (0.002 mole) of copper(I) iodide, 14 mL (0.100 mole) of triethylamine, and 0.25 gram (0.0004 mole) of dichlorobis(triphenylphosphine)palladium(II) in 60 mL of DMF was heated at 90° C. for about 18 hours. After this time, the reaction mixture was poured into water and extracted with diethyl ether. The ether extract was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was purified by column chromatography on silica gel using mixtures of hexane and ethyl acetate as an eluant. The appropriate fractions of eluate were combined and concentrated under reduced pressure, yielding 1.5 grams of subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 5-bromo-2-methoxytoluene | 0.023 mole, 4.6 grams | BrC=1C=CC(=C(C1)C)OC | C8H9BrO
reactant | 3-butyn-1-ol | 0.040 mole, 3 mL | C(CC#C)O | C4H6O
reactant | triethylamine | 0.100 mole, 14 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 0.002 mole, 0.30 gram | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.0004 mole, 0.25 gram | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(4-Methoxy-3-methylphenyl)but-3-yn-1-ol | 1.5 grams | COC1=C(C=C(C=C1)C#CCCO)C | C12H14O2
